US07741485B2
2-Chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]benzenesulfonylisocyanate
At 60° C., 7.4 g (62.3 mmol) of thionyl chloride were added dropwise with stirring to a suspension of 10.0 g (24.9 mmol) of 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonylamide in 1,2-dichloroethane. The mixture was then boiled under reflux for 4 h. The mixture was then cooled to 60° C., a catalytic amount of pyridine was added and phosgene was introduced under reflux for 12 h until a clear solution was obtained. After cooling to 30° C., the product was freed from the solvent. This gave 11.6 g (98% of theory) of the title compound.

reactant | thionyl chloride | 62.3 mmol, 7.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]-benzenesulfonylamide | 24.9 mmol, 10.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)S(=O)(=O)[NH-]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-Chloro-4-fluoro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-(2H)-pyrimidin-1-yl]benzenesulfonylisocyanate | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)S(=O)(=O)N=C=O | C13H6ClF4N3O5S
